US08604015B2
To a solution of (R)—O-bis(3-fluorophenyl)methyl quinuclidin-3-ylcarbamothioate (60 mg, 0.15 mmol) in ethyl acetate (1 ml), 2-chloro-1-(thiophen-2-yl)ethanone (27.3 mg, 0.17 mmol) was added. The reaction was stirred at room temperature for 3 days. The solvent was evaporated, and the residue was purified by flash chromatography (DCM/MeOH=75/25) to obtain (R)-3-((bis(3-fluorophenyl)methoxy)carbonothioylamino)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (20 mg).

reactant | (R)—O-bis(3-fluorophenyl)methyl quinuclidin-3-ylcarbamothioate | 0.15 mmol, 60 mg | N12C[C@@H](C(CC1)CC2)NC(OC(C2=CC(=CC=C2)F)C2=CC(=CC=C2)F)=S | C21H22F2N2OS
reactant | 2-chloro-1-(thiophen-2-yl)ethanone | 0.17 mmol, 27.3 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | (R)-3-((bis(3-fluorophenyl)methoxy)carbonothioylamino)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 20 mg | [Cl-].FC=1C=C(C=CC1)C(OC(=S)N[C@H]1C[N+]2(CCC1CC2)CC(C=2SC=CC2)=O)C2=CC(=CC=C2)F | InChI=1S/C27H26F2N2O2S2.ClH/c28-21-6-1-4-19(14-21)26(20-5-2-7-22(29)15-20)33-27(34)30-23-16-31(11-9-18(23)10-12-31)17-24(32)25-8-3-13-35-25;/h1-8,13-15,18,23,26H,9-12,16-17H2;1H/t18?,23-,31?;/m0./s1
